US08609710B2
[Step 1] tert-Butyl(cis-4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexyl)carbamate
To a solution of tert-butyl(cis-4-hydroxycyclohexyl)carbamate (2.0 g) in dimethylformamide (40 mL), imidazole (756 mg) and t-butyldiphenylchlorosilane (2.86 mL) were added under ice cooling, and the mixture was stirred for 24 hours. Imidazole (226 mg) and t-butyldiphenylchlorosilane (858 μL) were further added thereto, and the mixture was stirred for 6 days. To the reaction solution, ethyl acetate was added, and the organic layer was washed three times with 10% sodium chloride solution, dried over anhydrous sodium sulfate, and filtered. The solvent was distilled off under reduced pressure. This residue was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=98/2-9/1) to obtain the title compound (5.09 g).

reactant | tert-butyl(cis-4-hydroxycyclohexyl)carbamate | 2.0 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)O)=O | C11H21NO3
reactant | imidazole | 756 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylchlorosilane | 2.86 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | Imidazole | 226 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylchlorosilane | 858 μL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | tert-Butyl(cis-4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexyl)carbamate | 5.09 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C27H39NO3Si
